US08008307B2
Step d: N-[(1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]-oxy}methyl)cyclopentyl]-6-chloropyrimidin-4-amine
To a solution of (1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]oxy}methyl)cyclopentanamine (0.400 g, 1.11 mmol) in EtOH (3.0 mL) was added 4,6-dichloro-pyrimidine (0.199 g, 1.33 mmol) and Et3N (0.310 mL, 2.22 mmol). The reaction was heated to 140° C. for 1 h in a sealed tube using microwave irradiation then concentrated in vacuo. The residue was dissolved in CH2Cl2 and purified by flash chromatography (CH2Cl2) to afford the title compound (0.300 g, 57%).

reactant | (1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]oxy}methyl)cyclopentanamine | 1.11 mmol, 0.400 g | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](C[C@H]1CO[Si](C)(C)C(C)(C)C)N | C18H41NO2Si2
reactant | 4,6-dichloro-pyrimidine | 1.33 mmol, 0.199 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | Et3N | 2.22 mmol, 0.310 mL | CCN(CC)CC | C6H15N
solvent | EtOH | 3.0 mL | CCO | C2H6O
product | N-[(1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]-oxy}methyl)cyclopentyl]-6-chloropyrimidin-4-amine | 0.300 g, 57% | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](C[C@H]1CO[Si](C)(C)C(C)(C)C)NC1=NC=NC(=C1)Cl | C22H42ClN3O2Si2
